US09034861B2
A solution of 3,5-difluoro-2-nitrophenol and 3,5-difluoro-4-nitrophenol (3.54 g, 20 mmol), allyl bromide (2.9 g, 24 mmol) and potassium carbonate (8.3 g, 60 mmol) in acetone (50 mL) was refluxed for 2 h. The progress of reaction was monitored by TLC. After completion, the reaction mixture was concentrated under reduced pressure at 25° C. The residue was diluted with water extracted with ether. The organic layer was washed with water, dried over anhydrous Na2SO4 and concentrated under reduced pressure at 25° C. The residue obtained was purified by silica gel column chromatography (0-1% ethyl acetate-hexane) to yield 1-(allyloxy)-3,5-difluoro-2-nitrobenzene (934 mg). 1H-NMR (400 MHz, CD3OD): δ 4.72 (2H, d), 5.32 (1H, d J=10.8), 5.42 (1H, d, J=17.2), 5.98-6.02 (1H, m), 6.85 (1H, dt), 6.96 (1H, d).

reactant | 3,5-difluoro-2-nitrophenol | FC=1C(=C(C=C(C1)F)O)[N+](=O)[O-] | C6H3F2NO3
reactant | 3,5-difluoro-4-nitrophenol | 20 mmol, 3.54 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)O | C6H3F2NO3
reactant | allyl bromide | 24 mmol, 2.9 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-(allyloxy)-3,5-difluoro-2-nitrobenzene | 934 mg | C(C=C)OC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C9H7F2NO3
